US06265434B1
Step A: 3,3-dimethyl-2-(S)-hydroxybutyric acid benzyl ester
(S)-3,3-dimethyl-2-hydroxybutyric acid (2.1 grams, 15.9 mmol) and triethylamine (3.3 mL, 23.8 mmol) were dissolved in 15 mL DMF. Benzyl bromide (2.8 mL, 23.8 mmol) was added and the mixture was stirred overnight. Ethyl acetate was added and the mixture was washed with water (3×) and sat'd NaCl then dried over sodium sulfate and concentrated. Flash chromatography (150 g silica, 7/1 Hexane/EtOAc) afforded 3.4 grams (96%) of the title compound. 1H NMR (300 MHz, CDCl3). δ 0.98 (s, 9H), 2.75 (d, 1H), 3.85 (d, 1H), 5.23, (s, 21), 7.27-7.3 (m, 5H).

reactant | (S)-3,3-dimethyl-2-hydroxybutyric acid | 15.9 mmol, 2.1 grams | CC([C@@H](C(=O)O)O)(C)C | C6H12O3
reactant | triethylamine | 23.8 mmol, 3.3 mL | C(C)N(CC)CC | C6H15N
reactant | Benzyl bromide | 23.8 mmol, 2.8 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 3,3-dimethyl-2-(S)-hydroxybutyric acid benzyl ester | 3.4 grams, 96% | C(C1=CC=CC=C1)OC([C@H](C(C)(C)C)O)=O | C13H18O3
